** NOISE_Library **

.subckt noise_source_1 in out

** NOISE SOURCE **
v out in PWL file=noise/noise_data_noise_source_1.csv

.ends noise_source_1

.subckt noise_source_2 in out

** NOISE SOURCE **
v out in PWL file=noise/noise_data_noise_source_2.csv

.ends noise_source_2

.subckt shot_noise in out

** NOISE SOURCE **
v out in PWL file=noise/noise_data_shot_noise.csv

.ends shot_noise

